US09169259B2
A suspension of 6-fluoropyridin-2-amine (448 mg, 4 mmol) and (R)-2-methylpyrrolidine (511 mg, 6 mmol) in water (0.5 mL) was heated to 205° C. in a microwave oven for 30 minutes. The reaction mixture was purified by chromatography (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=3:1) to give (R)-6-(2-methylpyrrolidin-1-yl)pyridin-2-amine (581 mg, 82%) as a light yellow oil. LC-MS: [M+H]+, 178.2, tR=1.049 min.

reactant | 6-fluoropyridin-2-amine | 4 mmol, 448 mg | FC1=CC=CC(=N1)N | C5H5FN2
reactant | (R)-2-methylpyrrolidine | 6 mmol, 511 mg | C[C@H]1NCCC1 | C5H11N
solvent | water | 0.5 mL | O | H2O
product | (R)-6-(2-methylpyrrolidin-1-yl)pyridin-2-amine | 581 mg, 82% | C[C@H]1N(CCC1)C1=CC=CC(=N1)N | C10H15N3
